US07037932B2
a) 1-[(2,2-Diethoxyethyl)thio]-2-methoxybenzene
To a suspension of 2-methoxybenzenethiol (10 g, 71.4 mmol) and potassium carbonate (20 g, 143 mmol) in dry N,N-dimethylformamide (100 mL) was added dropwise over 20 mins a solution of bromoacetaldehyde diethyl acetal (10.3 mL, 71.4 mmol) in dry N,N-dimethylformamide (50 mL). The resulting suspension was allowed to stir at room temperature for 45 mins before being diluted with water (500 mL) and extracted with hexane (200 mL). The organic phase was further extracted with brine (4×100 mL), with the resulting organic phase being dried (MgSO4) and the solvent removed in vacuo to give a pale yellow oil (18.6 g) which was ca 95% pure. This material was further purified by flash chromatography eluting silica gel with hexane:ether [10:1] to give a colourless oil (18 g, 98%). δH (300 MHz, CDCl3) 7.34 (1H, d, Ar), 7.2 (1H, m, Ar), 6.92–6.80 (2H, m, Ar), 4.62 (1H, t, J=7 Hz, CH(OEt)2), 3.85 (3H, s, OCH3), 3.70–3.42 (4H, m, OCH2CH3), 3.10 (2H, d, J=7 Hz, SCH2), 1.12 (6H, t, J=7 Hz, OCH2CH3).

reactant | 2-methoxybenzenethiol | 71.4 mmol, 10 g | COC1=C(C=CC=C1)S | C7H8OS
reactant | potassium carbonate | 143 mmol, 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetaldehyde diethyl acetal | 71.4 mmol, 10.3 mL | C(C)OC(CBr)OCC | C6H13BrO2
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | 500 mL | O | H2O
product | 1-[(2,2-Diethoxyethyl)thio]-2-methoxybenzene | 18.6 g | C(C)OC(CSC1=C(C=CC=C1)OC)OCC | C13H20O3S
